US04806141
Diethyl malonate (21.0 g) was added to a solution of sodium metal (3.02 g) in anhydrous absolute ethanol (55 ml) and the mixture was heated to reflux temperature. 1-(3-Methoxy-2,4,6-trimethylphenyl)but-1-en-3-one (27.3 g) was added over a period of 2 minutes and the mixture was heated under reflux for a period of 2 hours. An aqueous solution of sodium hydroxide (16.0 g in 100 ml of water) was added and the mixture was heated under reflux for a further 41/2 hours. The aqueous mixture was cooled and washed with dichloromethane and the aqueous phase was warmed, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The ethyl acetate phase was washed with water, dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure to give 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (20.5 g) as a colourless crystalline solid, mp 165°-166° C.

reactant | Diethyl malonate | 21.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 3.02 g | [Na] | Na
reactant | 1-(3-Methoxy-2,4,6-trimethylphenyl)but-1-en-3-one | 27.3 g | COC=1C(=C(C(=CC1C)C)C=CC(C)=O)C | C14H18O2
reactant | sodium hydroxide | 100 ml, 16.0 g | [OH-].[Na+]
solvent | ethanol | 55 ml | C(C)O | C2H6O
product | 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 20.5 g | OC1=CC(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O | C16H20O3
